US06410781B1
A mixture of 8.5 M hydrochloric acid (10.5 mL), Zn (5.57 g, 85.2 mmol), and HgCl2 (0.557 g, 2.1 mmol) was stirred for 15 min, and then (1S, 2R)-2-(4-pyridylcarbonyl)cyclohexanecarboxylic acid (0.30 g, 1.3 mmol) was added. The reaction mixture was stirred at reflux for 20 h, and then diluted with 10% citric acid (75 mL), and then adjusted to pH=4 by addition of 10 M NaOH. The reaction mixture was extracted with ethyl acetate, washed with sat. brine, dried over MgSO4, filtered, and evaporated to give (1S, 2R)-2-(4-pyridylmethyl)-cyclohexanecarboxylic acid, as a white semi-solid (0.25 g, 90%).

reactant | hydrochloric acid | 8.5 M, 10.5 mL | Cl | ClH
reactant | (1S, 2R)-2-(4-pyridylcarbonyl)cyclohexanecarboxylic acid | 1.3 mmol, 0.30 g | N1=CC=C(C=C1)C(=O)[C@H]1[C@H](CCCC1)C(=O)O | C13H15NO3
reactant | NaOH | 10 M | [OH-].[Na+]
solvent | citric acid | 75 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | Zn | 85.2 mmol, 5.57 g | [Zn] | Zn
catalyst | HgCl2 | 2.1 mmol, 0.557 g | Cl[Hg]Cl
product | (1S, 2R)-2-(4-pyridylmethyl)-cyclohexanecarboxylic acid | N1=CC=C(C=C1)C[C@@H]1[C@H](CCCC1)C(=O)O | C13H17NO2
